US06586429B2
To a stirring suspension of 7-benzyl-8-bromo-3-methylxanthine (10.06 g, 30.0 mmol) in anhydrous dimethylsulfoxide was added sodium hydride (864 mg, 36.0 mmol). After stirring at room temperature for 30 min, (R)-5-acetoxy-1-chlorohexane (5.9 g, 33.0 mmol) was added. After stirring at 70-75° C. for 12 hours, the mixture was cooled to room temperature, quenched with water (600 ml) and stirred at room temperature for 4 hours. The precipitate was filtered to provide (R)-1-(5-acetoxyhexyl)-7-benzyl-8-bromo-3-methylxanthine (12.31 g, 86% yield) as a beige powder.

reactant | 7-benzyl-8-bromo-3-methylxanthine | 30.0 mmol, 10.06 g | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)C)Br | C13H11BrN4O2
reactant | sodium hydride | 36.0 mmol, 864 mg | [H-].[Na+]
reactant | (R)-5-acetoxy-1-chlorohexane | 33.0 mmol, 5.9 g | C(C)(=O)O[C@@H](CCCCCl)C | C8H15ClO2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (R)-1-(5-acetoxyhexyl)-7-benzyl-8-bromo-3-methylxanthine | 12.31 g, 86% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)Br)C)C | C21H25BrN4O4
